US07981896B2
1,1,1-Trifluoro-6-phenylhex-5-ene-2,4-dione.
Sodium hydride (547 mg, 60% dispersion in mineral oil, 13.68 mmol) was added to ethyl trifluoroacetate (1.63 mL, 13.68 mmol). (Note: Carefulness is required. The reaction caught fire upon adding sodium hydride to ethyl trifluoroacetate.) Trans-4-Phenyl-3-buten-2-one (1 g, 6.84 mmol) was added, and the reaction was stirred for 3 hours at 40° C. The reaction was cooled to room temperature and quenched with water, then diluted with 1 N HCl. The mixture was extracted with ethyl acetate, dried over MgSO4, and concentrated. The reaction was assumed to be quantitative. LC-MS (C12H9F3O2 calculated 242) m/z 243 (M+H).

reactant | Sodium hydride | 13.68 mmol, 547 mg | [H-].[Na+]
reactant | ethyl trifluoroacetate | 13.68 mmol, 1.63 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | Trans-4-Phenyl-3-buten-2-one | 6.84 mmol, 1 g | C1(=CC=CC=C1)/C=C/C(C)=O | C10H10O
product | 1,1,1-Trifluoro-6-phenylhex-5-ene-2,4-dione | FC(C(CC(C=CC1=CC=CC=C1)=O)=O)(F)F | C12H9F3O2
